data/specific_train_final.csv
"CCCC(OCC(C)O)[O:21][O:20][O].[N+](=O)[O-]>>CCCC([O:21])OCC(C)O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:11][O:10][O:9].[CH3:4][CH2:3][CH:2]([CH3:1])[CH2:5][CH2:6][O:7][O:8]>>[H:11][O:8][O:7][CH2:6][CH2:5][CH:2]([CH3:1])[CH2:3][CH3:4].[O:9][O:10] 10,11-10; 10,11-8,11; 8-8,11",Room Temperature,Propagation,abstraction
"C(C([O:20][O:21][O])Cl)O>>C(C([O:20])Cl)O.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH:21](CCC)OCCO.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC[CH:21]OCCO 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCCCC(CC)[O:20][O:21][O]>>CCCCCCC(CC)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH2:20]=[CH2:21].[N+](=O)([O-])[O:10]>>[CH2:21][CH2:20][O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC1=C[C:21](=[CH:20]C(=C1)C)CC.[OH:10]>>CCC1=C[C:21]([CH:20](C(=C1)C)[OH:10])CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:4][C:3]([CH2:9][OH:10])([C:2]([CH3:1])([CH2:13][O:14][N+:15](=[O:17])[O-:16])[O:11][H:12])[O:5][O:6][N:7]=[O:8]>>[H:4][C:3]([CH2:9][OH:10])([C:2]([CH3:1])([CH2:13][O:14][N+:15](=[O:17])[O-:16])[O:11][H:12])[O:5].[N:7](=[O:8])[O:6] 6,5-6; 5,6-5",Room Temperature,Initiation,homolyze
"[CH3:3][C:2]([CH2:11][O:12][O:13])([CH:4]([CH2:9][OH:10])[O:5][N+:6](=[O:8])[O-:7])[OH:1].[N:14]=[O:15]>>[CH3:3][C:2]([CH2:11][O:12][O:13][N:14]=[O:15])([CH:4]([CH2:9][OH:10])[O:5][N+:6](=[O:8])[O-:7])[OH:1] 14-13,14;13-13,14",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCCC(CO[O:10])O>>[H:20][O:10]OCC(CCC)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO)(C=O)[O:20][O:21]N=O>>CC(CO)(C=O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=C[C:21](=[CH:20]C=C1)C.[OH:10]>>CC1=C[C:21]([CH:20](C=C1)[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1=C([C:10](C2(C(C1OO2)O)C)O)C.[O:20][O]>>CC1=C([C:10](C2(C(C1OO2)O)C)(O)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:11][CH2:10][CH:8]([CH:6]([CH3:7])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12])[OH:9]>>[CH3:11][CH2:10][CH:8]([CH:6]([CH3:7])[O:5][O:4][O:3])[OH:9].[N+:2](=[O:1])[O-:12] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CC1=CC(=CC=C1)C[O:20][O:21]N=O>>CC1=CC(=CC=C1)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:13][O:12][O:11][CH2:10][CH:8]([C:2]([CH3:1])[CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:9].[O:14][O:15]>>[H:13][O:12][O:11][CH2:10][CH:8]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:14][O:15])[OH:9] 14-14,2; 2-14,2",Room Temperature,Termination,recombine
"C[C:10]1C(C=C(C(=C1C)C)O)O.[O:20][O]>>CC1=C([C:10](C(C=C1O)O)(C)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:11][CH2:10][CH:9]([CH:7]([CH3:8])[O:6][O:5][O:4][N+:2](=[O:1])[O-:3])[O:12][N+:13](=[O:15])[O-:14]>>[CH3:11][CH2:10][CH:9]([CH:7]([CH3:8])[O:6][O:5][O:4])[O:12][N+:13](=[O:15])[O-:14].[N+:2](=[O:1])[O-:3] 4,2-4; 4,2-2",Room Temperature,Initiation,homolyze
[CH3:1][C:2]1([CH2:3][CH:4]2[CH:5]1[CH2:6][CH2:7][C:8]([CH:9]([CH2:10][CH2:11][C:12]2=[CH2:13])[OH:14])([CH3:15])[O:16])[CH3:17].[N:18](=[O:19])[O:20]>>[CH3:1][C:2]1([CH2:3][CH:4]2[CH:5]1[CH2:6][CH2:7][C:8]([CH:9]([CH2:10][CH2:11][C:12]2=[CH2:13])[OH:14])([CH3:15])[O:16])[CH3:17].[N+:18](=[O:19])[O-:20] 18-20,Room Temperature,Propagation,ha resonance
"[H:20][O:21][O].CCCCC(C)O[O:10]>>[H:20][O:10]OC(C)CCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(CC2C1CCC(C(CCC2=C)[O:20])(C)O)C.[N+:10](=O)[O-]>>CC1(CC2C1CCC(C(CCC2=C)[O:20][N+:10](=O)[O-])(C)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C1C(O1)/C=C\C(=O)CCC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCCC(=O)/C=C\C1C(O1)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCC1(C=CC2C(C1(OO2)C)O)O[O:10]>>[H:20][O:10]OC1(C=CC2C(C1(OO2)C)O)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(CO[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CCC(CO[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C([O:20][O:21]N=O)Cl)O[N+](=O)[O-]>>C(C([O:20])Cl)O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C([O:20][O:21][O])(Cl)Cl)(O)(Cl)Cl>>C(C([O:20])(Cl)Cl)(O)(Cl)Cl.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC[C:10]1C=CC=CC1O.[O:20][O]>>CCC[C:10]1(C=CC=CC1O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(CCl)Cl)OO[O:20][N+:21](=O)[O-]>>C(C(CCl)Cl)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)CC(C)[O:20].[N+:10](=O)[O-]>>CC(C)CC(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
